US09382188B2
B) 5-bromo-2-(methoxycarbonyl)pyridine 1-oxide
To a solution of 5-bromo-2-carboxypyridine 1-oxide (19.6 g) in methanol (300 mL) was added dropwise thionyl chloride (37.1 g) at 0° C., and the mixture was heated under reflux for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with ethyl acetate to give the title compound (22.0 g) as a crude amorphous solid. This compound was used for the next step without further purification.

reactant | 5-bromo-2-carboxypyridine 1-oxide | 19.6 g | BrC=1C=CC(=[N+](C1)[O-])C(=O)O | C6H4BrNO3
reactant | thionyl chloride | 37.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 300 mL | CO | CH4O
product | 5-bromo-2-(methoxycarbonyl)pyridine 1-oxide | 22.0 g | BrC=1C=CC(=[N+](C1)[O-])C(=O)OC | C7H6BrNO3
